US05405997
A stirred solution of pentamethylene chlorohydrin (10.0 g, 0.0816 mol) in Et2O (165 ml) under nitrogen was treated with 3,4-dihydro-2H-pyran (10.3 g, 0.122 mol) and p-toluenesulfonic acid hydrate (0.5 g) and kept at ambient temperature for 4.5 hours. The mixture was washed with aqueous NaHCO3 and brine, dried (MgSO4) and concentrated. The residue was distilled to give 4.06 g, bp 79°-82° C. (0.1-0.07 mm Hg) and 10.54 g, bp 82°-84° C. (0.1-0.07 mm Hg) of 5-chloropentyl 2-tetrahydropyranyl ether.

reactant | pentamethylene chlorohydrin | 0.0816 mol, 10.0 g | C(CCCCO)Cl | C5H11ClO
reactant | 3,4-dihydro-2H-pyran | 0.122 mol, 10.3 g | O1CCCC=C1 | C5H8O
solvent | Et2O | 165 ml | CCOCC | C4H10O
catalyst | p-toluenesulfonic acid hydrate | 0.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 5-chloropentyl 2-tetrahydropyranyl ether | 10.54 g | O1C(CCCC1)OCCCCCCl | C10H19ClO2
